US04198408
1-(2'6'-diethylphenyl)-4-methylamino-1,2-dihydro-1,3,5-triazin-2-one hydrochloride
To a suspension of 22.8 g (80.0 mmol) of 1-(2,6-diethylphenyl)-3-methylamidinourea in CH3CN (100 ml) were added 19.1 g (160.0 mmol) of DMF-DMA and the reaction mixture was heated to reflux for 3 hours. The CH3CN was removed under reduced pressure and the residue partitioned between CHCl3 and H2O. The layers were separated and the aqueous layer extracted with CHCl3 (1×100 ml), dried (MgSO4) and concentrated under reduced pressure to give an off-white solid, which by NMR confirmed the desired free base. The solution was dissolved in H2OH and acidified with HCl/MeOH and the MeOH removed under reduced pressure to give an off-white solid which was crystallized from CH3CN to give after vacuum drying and weekend (105° C., house vacuum) 16.7 g (71%) of crude product. The material was recrystallized from CH3CN (a hot filtration was necessary to remove some undissolved solid) to give 11.0 g (47%) of desired product as a white crystalline solid:

reactant | 1-(2,6-diethylphenyl)-3-methylamidinourea | 80.0 mmol, 22.8 g | C(C)C1=C(C(=CC=C1)CC)NC(=O)NC(NC)=N | C13H20N4O
reactant | DMF-DMA | 160.0 mmol, 19.1 g | CN(C)C(OC)OC | C5H13NO2
reactant | HCl MeOH | Cl.CO
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | 1-(2'6'-diethylphenyl)-4-methylamino-1,2-dihydro-1,3,5-triazin-2-one hydrochloride | 11.0 g, 47% | Cl.C(C)C1=C(C(=CC=C1)CC)N1C(N=C(N=C1)NC)=O | InChI=1S/C14H18N4O.ClH/c1-4-10-7-6-8-11(5-2)12(10)18-9-16-13(15-3)17-14(18)19;/h6-9H,4-5H2,1-3H3,(H,15,17,19);1H
